US06331538B1
1-(4-Fluorophenyl)-6-fluoro-3-hydroxy-7-pyrrolidin-1-yl-1H-quinazoline-2,4-dione;
1-(4-Fluorophenyl)-6-fluoro-3-hydroxy-7-(4-methylpiperazin-1-yl)-1H-quinazoline-2,4-dione, trifluoroacetate;

reactant | 1-(4-Fluorophenyl)-6-fluoro-3-hydroxy-7-(4-methylpiperazin-1-yl)-1H-quinazoline-2,4-dione | FC1=CC=C(C=C1)N1C(N(C(C2=CC(=C(C=C12)N1CCN(CC1)C)F)=O)O)=O | C19H18F2N4O3
reactant | trifluoroacetate | FC(C(=O)[O-])(F)F
product | 1-(4-Fluorophenyl)-6-fluoro-3-hydroxy-7-pyrrolidin-1-yl-1H-quinazoline-2,4-dione | FC1=CC=C(C=C1)N1C(N(C(C2=CC(=C(C=C12)N1CCCC1)F)=O)O)=O | C18H15F2N3O3
